US07834012B2
Methyl trans-5-nitro-4-(2,4,5-trifluorophenyl)cyclohex-1-enecarboxylate
A stream of dinitrogen gas was bubbled through a mechanically-stirred solution of methyl 2-methylene-4-nitro-5-(2,4,5-trifluorophenyl)oct-7-enoate (98 g, 285.7 mmol, 1:1 mixture of erythro and threo isomers) in DCE (1.43 L) at 70° C. A solution of Grubbs' 2nd generation catalyst (9.7 g, 11.4 mmol) in DCE (61 mL) was added via syringe pump over about twelve hours. The reaction was then cooled to 55° C., and triethylamine (3.98 mL, 28.6 mmol) was added. After eight hours, the heating bath was removed, and DMSO (64 mL, 912 mmol) was added to the reaction. After stirring for twelve hours, the reaction was concentrated under reduced pressure, and the crude residue was purified by MPLC on SiO2 gel (15% EtOAc in Hx) to give the title compound as a dark waxy solid (63 g, 72%). 1H NMR (300 MHz, CDCl3) δ ppm 7.06-6.90 (m, 3H), 5.03 (ddd, J=5.8, 10.5 and 10.5 Hz, 1H), 3.79 (s, 3H), 3.64 (ddd, J=6.1, 10.5, and 10.5 Hz, 1H), 3.20-3.12 (m, 1H), 3.01-2.89 (m, 1H), 2.80-2.70 (m, 1H), 2.63-2.51 (m, 1H).

reactant | methyl 2-methylene-4-nitro-5-(2,4,5-trifluorophenyl)oct-7-enoate | 285.7 mmol, 98 g | C=C(C(=O)OC)CC(C(CC=C)C1=C(C=C(C(=C1)F)F)F)[N+](=O)[O-] | C16H16F3NO4
reactant | triethylamine | 28.6 mmol, 3.98 mL | C(C)N(CC)CC | C6H15N
reactant | DMSO | 912 mmol, 64 mL | CS(=O)C | C2H6OS
solvent | DCE | 1.43 L | ClCCCl | C2H4Cl2
catalyst | Grubbs' 2nd generation | 11.4 mmol, 9.7 g | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | DCE | 61 mL | ClCCCl | C2H4Cl2
product | Methyl trans-5-nitro-4-(2,4,5-trifluorophenyl)cyclohex-1-enecarboxylate | [N+](=O)([O-])[C@H]1[C@@H](CC=C(C1)C(=O)OC)C1=C(C=C(C(=C1)F)F)F | C14H12F3NO4
